US06890940B2
To a solution of 4-iodo-2,6-dimethoxybezoic acid (308.0 mg, 1.00 mmol) in methylene chloride (5.0 mL) were added dimethylformamide (0.020 mL, 0.26 mmol) and oxalyl chloride (0.13 mL, 1.5 mmol), and the resulting mixture was stirred for 30 minutes. The reaction mixture was poured into an ice-cold solution of N,O-dimethylhydroxyamine hydrochloride (488.0 mg, 5.00 mmol) and N,N-diisopropylethylamine (1.74 mL, 10.0 mmol) in methylene chloride (5.0 mL). The ice bath was removed, and the mixture was stirred at room temperature for 30 minutes. 0.1 M Hydrochloric acid was added to the reaction mixture, and the resulting mixture was extracted with chloroform. The organic layer was washed with 0.1 M aqueous sodium hydroxide and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. Hexane was added to the residue and the resulting precipitate was collected by filtration to yield crude 4-iodo-N,2,6-trimethoxy-N-methylbenzamide as a pale yellow crystalline powder (305.0 mg, yield: approx. 87%).

reactant | 4-iodo-2,6-dimethoxybezoic acid | 1.00 mmol, 308.0 mg | IC1=CC(=C(C(=O)O)C(=C1)OC)OC | C9H9IO4
reactant | dimethylformamide | 0.26 mmol, 0.020 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.5 mmol, 0.13 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethylhydroxyamine hydrochloride | 5.00 mmol, 488.0 mg | Cl.CNOC
reactant | N,N-diisopropylethylamine | 10.0 mmol, 1.74 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 4-iodo-N,2,6-trimethoxy-N-methylbenzamide | 305.0 mg, yield: approx. 87% | IC1=CC(=C(C(=O)N(C)OC)C(=C1)OC)OC | C11H14INO4
